US07378409B2
Preparation D1: Synthesis of 4,6-dichloroquinazoline
Preparation D1, Step 2: 6-Chloroquinazolin-4-ol (400 mg, 2.21 mmol, 1 eq.), phosphorus oxychloride (1.99 mL, 21.4 mmol, 9.64 eq.) and triethylamine (0.99 mL, 7.11 mmol, 3.21 eq.) were mixed at room temperature under nitrogen and then refluxed for 2.5 hours. Worked up by stripping the reaction, then re-rotovapping the residue 2 times from toluene to obtain brown solids. Methylene chloride (25 mL) was added to dissolve the solids. The organic mixture was then rinsed 2 times with saturated ammonium chloride (25 mL). The organic layer was dried (sodium sulfate) and stripped to give brown solids. The solids were purified over silica gel in 9:1 to 3:1 hexanes/ethyl acetate. Obtained 4,6-dichloroquinazoline (300 mg) as an off-white solid. Yield=68%. 1H NMR (400 MHz) (DMSO-D6) δ 9.16 (s, 1H): 8.33 (s, 1H), 8.17 (apparent t, 2H, J=7 Hz).

reactant | 6-Chloroquinazolin-4-ol | 2.21 mmol, 400 mg, 1 eq. | ClC=1C=C2C(=NC=NC2=CC1)O | C8H5ClN2O
reactant | phosphorus oxychloride | 21.4 mmol, 1.99 mL, 9.64 eq. | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 7.11 mmol, 0.99 mL, 3.21 eq. | C(C)N(CC)CC | C6H15N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 4,6-dichloroquinazoline | ClC1=NC=NC2=CC=C(C=C12)Cl | C8H4Cl2N2
